US05019578
5-Acetyltetrazolo[1,5-a]pyridine
A solution of 11.42 g of 2-chloro-4-acetylpyridine, 9.51 g of sodium azide and 9.2 ml of 12 N HCl in 86 ml of a 1:1 ethanol:water mixture was heated at reflux for three hours. An additional 9.2 g of sodium azide was added and the reaction mixture heated at reflux overnight. An aqueous solution of sodium carbonate (3.92 g) was added and the mixture repeatedly extracted with methylene chloride. The combined extracts were washed with water and saturated sodium chloride solution and then dried with anhydrous magnesium sulfate. Concentration under reduced pressure afforded 10.2 g of product.

reactant | 2-chloro-4-acetylpyridine | 11.42 g | ClC1=NC=CC(=C1)C(C)=O | C7H6ClNO
reactant | sodium azide | 9.51 g | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 12 N, 9.2 ml | Cl | ClH
reactant | sodium azide | 9.2 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium carbonate | 3.92 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 86 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-Acetyltetrazolo[1,5-a]pyridine | 10.2 g | C(C)(=O)C1=CC=CC=2N1N=NN2 | C7H6N4O
